US08461181B2
A mixture of 0.59 g of 1,1,3,3-tetrafluoro-N-methyl-1,3-dihydroisobenzofuran-5,6-diamine, 0.63 g of sodium hydroxy-pyridin-4-yl-methanesulfonate and 5 ml of DMF was stirred for 1 hour while heating at 120° C. After cooling down to room temperature, a saturated sodium hydrogen carbonate aqueous solution was poured, and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, then, concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.71 g of 5,5,7,7-tetrafluoro-1-methyl-2-(pyridin-4-yl)-5,7-dihydro-1H-furo[3′,4′:4,5]benzo[1,2-d]imidazole (hereinafter, referred to as present active compound 1).

reactant | 1,1,3,3-tetrafluoro-N-methyl-1,3-dihydroisobenzofuran-5,6-diamine | 0.59 g | FC1(OC(C2=CC(=C(C=C12)N)NC)(F)F)F | C9H8F4N2O
reactant | sodium hydroxy-pyridin-4-yl-methanesulfonate | 0.63 g | OC(S(=O)(=O)[O-])C1=CC=NC=C1.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5,5,7,7-tetrafluoro-1-methyl-2-(pyridin-4-yl)-5,7-dihydro-1H-furo[3′,4′:4,5]benzo[1,2-d]imidazole | 0.71 g | FC1(OC(C=2C1=CC1=C(N(C(=N1)C1=CC=NC=C1)C)C2)(F)F)F | C15H9F4N3O
